US08202876B2
A mixture of 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (5.5 g, 15.2 mmol), lithium hydroxide (1.82 g, 75.8 mmol) dissolved in a mixture of 1,4-Dioxane (20 mL) and water (5 mL) is heated to 85° C. for 8 hours. The reaction mixture is then neutralized with 2 M HCl aqueous solution until pH˜4-5 causing a white precipitate to form. After filtration, the undissolved solid is washed with small amount of water, air-dried to give 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid as white powder: 1H NMR 400 MHz (d6-DMSO) δ 8.41 (s, 1H), 8.00-7.40 (m, 4H), 6.86-6.58 (m, 1H), 2.86 (s, 3H); MS m/z 235.10 (M+1).

reactant | 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 15.2 mmol, 5.5 g | C(C)OC(=O)C=1C=NN(C1N)C1=NC=NC(=C1)N(C)C(=O)OC(C)(C)C | C16H22N6O4
reactant | lithium hydroxide | 75.8 mmol, 1.82 g | [OH-].[Li+]
reactant | HCl | 2 M | Cl | ClH
solvent | 1,4-Dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid | NC1=C(C=NN1C1=NC=NC(=C1)N(C)C(=O)OC(C)(C)C)C(=O)O | C14H18N6O4
